US06677335B1
2-(2-{[tert-Butyl(dimethyl)silyl]oxy}ethyl)-3-ethyl-4-nitropyrazole-5-carboxamide
A mixture of 3-ethyl-4-nitro-1H-pyrazole-5-carboxamide (WO, 9849166), (4.9 g, 26.6 mmol), cesium carbonate (21.0 g, 64.5 mmol) and (2-bromoethoxy)-tert-butyldimethylsilane (7.0 g, 29.0 mmol) in acetonitrile (400 ml) was stirred at 80° C. for 20 hours. The cooled mixture was concentrated under reduced pressure and the residue was partitioned between ethyl acetate (200 ml) and water (100 ml). The layers were separated, the organic phase washed with water (3×50 ml), dried (Na2SO4) and evaporated under reduced pressure. The crude product was purified by column chromatography on silica gel, using ethyl acetate as eluant, and repeated using an elution gradient of pentane:ethyl acetate (50:50 to 0:100), to give some of the desired compound.

reactant | 3-ethyl-4-nitro-1H-pyrazole-5-carboxamide | 26.6 mmol, 4.9 g | C(C)C1=NNC(=C1[N+](=O)[O-])C(=O)N | C6H8N4O3
reactant | cesium carbonate | 64.5 mmol, 21.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (2-bromoethoxy)-tert-butyldimethylsilane | 29.0 mmol, 7.0 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
product | 2-(2-{[tert-Butyl(dimethyl)silyl]oxy}ethyl)-3-ethyl-4-nitropyrazole-5-carboxamide | [Si](C)(C)(C(C)(C)C)OCCN1N=C(C(=C1CC)[N+](=O)[O-])C(=O)N | C14H26N4O4Si
